US07713994B2
6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione
6-Bromo-4H-isoquinoline-1,3-dione (120 mg, 0.500 mmol) and trimethyl orthoformate (106 mg, 1.00 mmol) were suspended in 1.25 ml of a 1:4 ratio mixture of acetic anhydride and N,N-dimethylformamide. Mixture is heated at 125° C. for 2 hours causing a yellow solid to form. Mixture is cooled to room temperature and filtered. Residue is washed with 20 ml of ethyl ether to afford the product as a yellow solid (109 mg, 0.380 mmol, 77%); 1H NMR (DMSO-d6) δ 4.25 (s, 3H), 7.60 (dd, J=1.9, 8.4 Hz, 1H), 7.96 (d, J=8.5 Hz, 1H), 8.07 (s, 1H), 8.36 (d, J=1.9 Hz, 1H), 11.38 (s, 1H); mass spectrum [(+) ESI], m/z 282/284 (M+H)+.

reactant | 6-Bromo-4H-isoquinoline-1,3-dione | 0.500 mmol, 120 mg | BrC=1C=C2CC(NC(C2=CC1)=O)=O | C9H6BrNO2
reactant | trimethyl orthoformate | 1.00 mmol, 106 mg | C(OC)(OC)OC | C4H10O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.380 mmol, 109 mg, 77% | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
